US04963566
To 8-hydroxymethyl-1,2,3,4-tetrahydroquinoline (8.03 g) and sodium hydride (60% in oil) (1.97 g) was added tetrahydrofuran (100 ml) under ice-cooling and argon atmosphere, and the mixture was stirred for 2 hours at 70° to 75° C. At -70° C., n-butyllithium (20 ml) was added to the reaction mixture by use of a syringe, and 30 minutes after addition, a solution of methyl iodide (6.98 g) in tetrahydrofuran (30 ml) was added thereto, and the mixture was stirred for 20 hours at room temperature. After distilling off tetrahydrofuran, the resulting residue was extracted with chloroform, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the resulting residue was purified by silica gel column chromatography [eluent: n-hexane-ethyl acetate (4:1)]to give 1-methyl-8-hydroxymethyl-1,2,3,4-tetrahydroquinoline (5.00 g).

reactant | 8-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 8.03 g | OCC=1C=CC=C2CCCNC12 | C10H13NO
reactant | sodium hydride | 1.97 g | [H-].[Na+]
reactant | n-butyllithium | 20 ml | C(CCC)[Li]
reactant | methyl iodide | 6.98 g | CI | CH3I
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-methyl-8-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 5.00 g | CN1CCCC2=CC=CC(=C12)CO | C11H15NO
